US08222424B2
3-(4-Methoxy-benzoyl)benzenesulfonamide
3-(4-Methoxy-benzoyl)-benzenesulfonyl chloride is dissolved in dichloromethane (10 ml) and treated with 1.7 mL of a 2 M solution of ammonia in methanol. The reaction is stirred at ambient temperature for 2 hours and quenched with 1N HCl. The organic phase is separated and evaporated under reduced pressure to give the crude sulfonamide. Purification by silica gel chromatography (gradient of ethyl acetate in hexanes 5-25%) yielded 100 mg (50% yield) of the title compound. 1H NMR (CDCl3, 300 MHz): δ 8.3 (t, 1H, J=1.6 Hz), 8.1 (m, 1H), 7.95 (m, 1H), 7.8 (d, 2H, J=6.98 Hz), 7.65 (t, 1H, J=7.8 Hz), 7.0 (d, 2H, J=6.98 Hz), 4.95 (s, 2H), 3.9 (s, 3H). MP: 119-122° C. LCMS Elution time 0.81 MS (m/z): 291 (M+1). CHN Calc C, 57.72; H, 4.50; N, 4.81. Found C, 57.65; H, 4.33; N, 4.69

reactant | 3-(4-Methoxy-benzoyl)-benzenesulfonyl chloride | COC1=CC=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)Cl)C=C1 | C14H11ClO4S
reactant | ammonia | N | H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-(4-Methoxy-benzoyl)benzenesulfonamide | 100 mg, 50% yield | COC1=CC=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)N)C=C1 | C14H13NO4S
